US04563534
To 10.1 g of 2-(2-aminothiazol-4-yl)thioglyoxylic S-acid methyl ester and 80 ml of water was added 10.6 g of sodium carbonate with ice-cooling, and the resulting mixture was stirred at the same temperature for 1 hour. Subsequently, the thus obtained reaction mixture was adjusted to pH 2.5 with 6 N hydrochloric acid at the same temperature. The deposited crystals were collected by filtration, washed with water, and then dried to obtain 6.2 g (67.8% yield) of 2-(2-aminothiazol-4-yl)glyoxylic acid having a melting point of above 200° C.

reactant | 2-(2-aminothiazol-4-yl)thioglyoxylic S-acid methyl ester | 10.1 g | CSC(C(=O)C=1N=C(SC1)N)=O | C6H6N2O2S2
reactant | sodium carbonate | 10.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | water | 80 ml | O | H2O
product | 2-(2-aminothiazol-4-yl)glyoxylic acid | 6.2 g, 67.8% yield | NC=1SC=C(N1)C(C(=O)O)=O | C5H4N2O3S
